US04539355
To a 300-ml four-necked flask equipped with a thermometer, a stirrer, a condenser and a dropping funnel were added 32.8 g (0.20 mole) of 2-tert-butyl-4-methylphenol, 22.3 g (0.22 mole) of triethylamine and 100 g of toluene, and after replacing air in the flask by nitrogen, 19.10 g (0.21 mole) of acryloyl chloride was added dropwise at a reaction temperature of 30° C. over 1 hour. After completion of the dropwise addition, excessive triethylamine was neutralized with hydrochloric acid, the reaction solution was washed with water, and toluene was then removed from the organic layer by evaporation under reduced pressure to obtain 43.0 g of a crude product (yield, 99%). This crude product was purified by distillation under reduced pressure to obtain a white and transparent 2-tert-butyl-4-methylphenol monoacrylate.

reactant | 2-tert-butyl-4-methylphenol | 0.20 mole, 32.8 g | C(C)(C)(C)C1=C(C=CC(=C1)C)O | C11H16O
reactant | acryloyl chloride | 0.21 mole, 19.10 g | C(C=C)(=O)Cl | C3H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 0.22 mole, 22.3 g | C(C)N(CC)CC | C6H15N
product | 2-tert-butyl-4-methylphenol monoacrylate | C(C=C)(=O)OC1=C(C=C(C=C1)C)C(C)(C)C | C14H18O2
